Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
da-EPOCH
 
Major Surgical or Invasive Procedure:
IT MTX

 
History of Present Illness:
Ms. ___ is a pleasant ___ w/ HLH/MAS who is p/f C6
EPOCH. She initially presented c/ pancytopenia, fatigue,
persistent fevers, worsening anemia, arthralgias/myalgias who 
was
started on anakinra/prednisone/cyclosporine for presumed Adult
Still's disease with poor response and found to have primary 
high
grade breast lymphoma complicated by HLH. She was started on ___ and completed C5 on ___ and tolerated it well. She states
since discharge, she has not had any F/C, no N/V, no mouth 
sores,
no CP/SOB, no abd pain. She did have a rash and some swelling of
her left large toe and diagnosed w/ a cellulitis and that has
since resolved on cephalexin. 

 
Past Medical History:
PAST MEDICAL HISTORY: 
DLBCL of the breast, presenting initially as HLH which was at
first thought to be Adult-onset Still's Disease before occult
lymphoma in the breast was discovered. 
History of intrapartum bleeding, s/p "staples" to her fallopian 
tubes

TREATMENT HISTORY: 
___ Cycle 1 DA-EPOCH-R (level 1)
S/p IT MTX and LP. LP on ___ Cycle 2 DA-EPOCH-R (level -1)
___ IT MTX 
___ Port placed (double lumen power Port-a-cath)
 
Social History:
___
Family History:
Mother with CAD. No FH immunologic or rheumatologic disorders. 
No FH of malignancies.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VITAL SIGNS: Vital Signs sheet entries for ___: 
BP: 118/75. Heart Rate: 73. O2 Saturation%: 100. Weight: 133.5
(With Clothes). Height: 64 (Measured) (Entered in Nursing IPA).
BMI: 22.9. Temperature: 98.2. Resp. Rate: 18.
General:  NAD, Resting in bed comfortably
HEENT:  MMM, no OP lesions, no cervical/supraclavicular
adenopathy, + alopecia 
CV:  RR, NL S1S2 no S3S4 No MRG
PULM:  CTAB, No C/W/R, No respiratory distress
ABD:  BS+, soft, NTND, no palpable masses or HSM
LIMBS: WWP, no ___, no tremors
SKIN:  No rashes on the extremities however there is slight
residual erythema around her left large toe without TTP, no
streaking, there is also some slight erythema around the right
ankle, and there are scattered telengiectasias along the distal
lower extremities, there is no erythema over the left chest port
however there is slight erythema around the scar from port
insertion
NEURO:  Grossly normal

DISCHARGE PHYSICAL EXAM:
VITAL SIGNS: 
BP: 120/80 Heart Rate: 52 O2 Saturation%: 99 Weight: 140 (With
Clothes). Height: 64 (Measured) (Entered in Nursing IPA). 
Temperature: 97.1 Resp. Rate: 18
General:  NAD, Resting in bed comfortably
HEENT:  MMM, no OP lesions, no cervical/supraclavicular
adenopathy, + alopecia 
CV:  RR, NL S1S2 no S3S4 No MRG
PULM:  CTAB, No C/W/R, No respiratory distress
ABD:  BS+, soft, NTND, no palpable masses or HSM
LIMBS: WWP, no ___, no tremors
SKIN:  No rashes on the extremities however there is slight
residual erythema around her left large toe without TTP, no
streaking, there is also some slight erythema around the right
ankle, and there are scattered telengiectasias along the distal
lower extremities, there is no erythema over the left chest port
however there is slight erythema around the scar from port
insertion
NEURO:  Grossly normal

 
Pertinent Results:
___ 12:00AM BLOOD WBC-2.4* RBC-2.69* Hgb-8.3* Hct-25.3* 
MCV-94 MCH-30.9 MCHC-32.8 RDW-15.7* RDWSD-54.0* Plt ___
___ 12:00AM BLOOD WBC-1.9*# RBC-2.80* Hgb-8.6* Hct-27.4* 
MCV-98 MCH-30.7 MCHC-31.4* RDW-16.8* RDWSD-60.1* Plt ___
___ 12:00AM BLOOD Neuts-91.7* Lymphs-5.8* Monos-0.8* 
Eos-0.0* Baso-0.0 Im ___ AbsNeut-2.22 AbsLymp-0.14* 
AbsMono-0.02* AbsEos-0.00* AbsBaso-0.00*
___ 12:00AM BLOOD Neuts-84.1* Lymphs-12.4* Monos-1.5* 
Eos-0.0* Baso-0.5 Im ___ AbsNeut-1.63# AbsLymp-0.24* 
AbsMono-0.03* AbsEos-0.00* AbsBaso-0.01
___ 12:00AM BLOOD Glucose-145* UreaN-18 Creat-0.4 Na-136 
K-3.8 Cl-101 HCO3-26 AnGap-13
___ 12:00AM BLOOD Glucose-187* UreaN-11 Creat-1.0 Na-139 
K-4.4 Cl-105 HCO3-25 AnGap-13
___ 12:00AM BLOOD ALT-13 AST-9 LD(LDH)-159 AlkPhos-43 
TotBili-0.2
___ 12:00AM BLOOD ALT-19 AST-16 LD(LDH)-186 AlkPhos-63 
TotBili-<0.2
___ 12:00AM BLOOD Albumin-3.1* Calcium-8.3* Phos-3.1 Mg-2.2 
UricAcd-2.2*
___ 12:00AM BLOOD Albumin-3.5 Calcium-8.7 Phos-3.2 Mg-2.___ ___ w/ newly diagnosed
DLBCL of the right breast s/p C5 of DA-EPOCH-R now presenting 
for
C6 of regimen at dose level 2. Most recent PET scan on ___
shows no FDG avidity along right breast; however, avidity along
thighs present and associated with phlebitis

C6D6 ___

#High Grade Breast DLBCL: 
 Will continue chemo as per protocol. 
- Prednisone 100 mg PO BID x 5 Days, will need taper at d/c 
- Rituximab 600 mg IV ___.
- continue acyclovir and atovaquone for infectious ppx
- holding fluconazole while receiving chemotherapy
- neupogen 24hrs to 72hrs post chemo
- follow up w/ Dr. ___ to be arranged
- LP on ___ prior to d/c home
- f/u next ___ or sooner in clinic if issues arise

# DVT: Acute deep venous thrombosis of the right subclavian,
axillary, basilic, and brachial veins diagnosed on ___ by
ultrasound in the setting of pain complaints on RUE where PICC
line was previously placed for C2 chemotherapy. Continues on
Lovenox 80mg Daily (though at 1.5 mg/kg, dose 90 mg daily, 
prefer
to be on the lower end due to TCP). Patient will also hold
injection during periods of thrombocytopenia.

# Left Toe Cellulitis
Seems to be healing well, today D10 of cephalexin. She was
instructed to hold the antibiotic during chemo and she will
resume it on discharge. 

#FVO: up approx. 5lb from baseline weight asymptomatic monitor
I/Os diurese prn

# History Orthostasis/Hypotension: BP stable on admission. She
did not experience any difficulty with prednisone taper,
completed dose prior to admission. We will continue post each
cycle of EPOCH. 

#Infectious Prophylaxis:
- PCP: ___
- HSV/VZV: Acyclovir
- Fungal: Fluconazole, holding due to drug/drug interaction w/
chemotherapy

Access: POC placed ___
FEN: Regular diet
Pain control: Oxycodone PRN
Bowel regimen: Colace and Senna BID; Miralax PRN
CODE: Full
DVT: Lovenox 80mg daily 
CONTACT: ___ (Daughter) ___
Disposition: home
Code Status: FULL

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q8H 
2. Atovaquone Suspension 1500 mg PO DAILY 
3. Cephalexin 500 mg PO Q6H 
4. Enoxaparin Sodium 80 mg SC Q24H 
5. Zarxio (filgrastim-sndz) 300 mcg/0.5 mL injection DAILY 
6. Fluconazole 400 mg PO Q24H 
7. Pantoprazole 40 mg PO Q24H 
8. PredniSONE 5 mg PO ASDIR 
9. Calcium 500 + D (D3) (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -125 unit oral DAILY 

 
Discharge Medications:
1.  Acyclovir 400 mg PO Q8H  
2.  Atovaquone Suspension 1500 mg PO DAILY  
3.  Calcium 500 + D (D3) (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -125 unit oral DAILY  
4.  Cephalexin 500 mg PO Q6H  
5.  Enoxaparin Sodium 80 mg SC Q24H  
6.  Fluconazole 400 mg PO Q24H  
7.  LORazepam 0.5-1 mg PO Q4H:PRN nausea anxiety insomnia  
8.  Pantoprazole 40 mg PO Q24H  
9.  PredniSONE 5 mg PO ASDIR  
10.  Zarxio (filgrastim-sndz) 300 mcg/0.5 mL injection DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
lymphoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

You were admitted to receive your sixth cycle of chemotherapy 
for the treatment of your lymphoma. You tolerated this cycle 
very well and will be discharged today.

You will follow up with Dr. ___ as indicated below.

Please continue to take all of your medications as ordered. You 
will start your neupogen and restart your Lovenox on ___ 
___.

It was a pleasure taking care of you.

Sincerely,

Your ___ TEAM
 
Followup Instructions:
___